US04097504
Step B: Diethyl (5-Acetoxypentyl)methylmalonate
Sodium hydride (4.8 g., 0.2 mole) as a 50% suspension in mineral oil is washed with petroleum ether under nitrogen to remove the mineral oil, suspended in dry benzene (150 ml.), and the suspension cooled in an ice bath. Diethyl methylmalonate (34.8 g., 0.2 mole) dissolved in sieve dried DMF (150 ml.) is added to the suspension of sodium hydride dropwise. The mixture is allowed to stand overnight at room temperature. Potassium iodide (0.4 g.) and 5-acetoxypentyl chloride (32.9 g., 0.2 mole) are then added, and the mixture is heated for 24 hours at 125° in an oil bath. The reaction mixture is concentrated in vacuo, diluted with ether (200 ml.), and filtered to remove sodium chloride. The filtrate is washed with brine, dried over anhydrous magnesium sulfate and concentrated to yield 39.6 g. (66%) of oily product.

reactant | Sodium hydride | 0.2 mole, 4.8 g | [H-].[Na+]
reactant | Diethyl methylmalonate | 0.2 mole, 34.8 g | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | Potassium iodide | 0.4 g | [I-].[K+]
reactant | 5-acetoxypentyl chloride | 0.2 mole, 32.9 g | C(C)(=O)OCCCCCCl | C7H13ClO2
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | Diethyl (5-Acetoxypentyl)methylmalonate | C(C)(=O)OCCCCCC(C(=O)OCC)(C(=O)OCC)C | C15H26O6
